US07939546B2
4-(quinolin-4-ylamino)benzoic acid hydrochloride (Cpd C).
To a suspension of 4-chloroquinoline (0.500 g, 3.06 mmol) and 4-aminobenzoic acid (0.419 g, 3.06 mmol) in 2-propanol (10 mL) 3 drops of concentrated hydrochloric acid were added and mixture was microwave irradiated at 150° C. for 1 hour. After cooling solid was filtered off, washed with 2-propanol and dried in vacuo to give Cpd C as a yellow powder. Purity (HPLC): 100%. 1H NMR (DMSO-d6): 7.05 (d, J=6.9 Hz, 1H), 7.64-7.67 (m, 2H), 7.80-7.85 (m, 1H), 8.02-8.17 (m, 5H), 8.59 (d, J=7.2 Hz, 1H), 8.92 (d, J=8.1 Hz, 1H), 11.26 (s, 1H). MS (ES+): calc. for C16H13N2O2 (MH+) 265.1, found 265.1.

reactant | 4-chloroquinoline | 3.06 mmol, 0.500 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-aminobenzoic acid | 3.06 mmol, 0.419 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | hydrochloric acid | Cl | ClH
catalyst | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 4-(quinolin-4-ylamino)benzoic acid hydrochloride | Cl.N1=CC=C(C2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | InChI=1S/C16H12N2O2.ClH/c19-16(20)11-5-7-12(8-6-11)18-15-9-10-17-14-4-2-1-3-13(14)15;/h1-10H,(H,17,18)(H,19,20);1H
